### ISSUE TITLE
Prove `VectorMatroid.exists_standardRepr_isBase`

### ISSUE THREAD

**Issue by madvorak** [Ivan-Sergeyev/seymour#45]
Peter Nelson proved a similar thing in only circa 200 lines; perhaps we can reuse his approach.
His proof (I filtered exactly those necessary and sufficient declarations for his version of this lemma) is here:
```
import Mathlib.LinearAlgebra.Projectivization.Basic
import Mathlib.Order.Zorn
import Mathlib.Data.Matroid.Loop
import Seymour.Basic.Basic

-- Adapted from: https://github.com/apnelson1/Matroid


noncomputable def Basis.mkImage {ι R M : Type} [Semiring R] [AddCommMonoid M] [Module R M]
    {v : ι → M} {s : Set ι} (hli : LinearIndepOn R v s) (hsp : ⊤ ≤ Submodule.span R (v '' s)) :
    Basis s R M :=
  Basis.mk hli.linearIndependent <| by rwa [←Set.image_eq_range]

theorem Basis.mkImage_repr {ι R M : Type} [Semiring R] [AddCommMonoid M] [Module R M]
    {v : ι → M} {s : Set ι} (hli : LinearIndepOn R v s) (hsp : ⊤ ≤ Submodule.span R (v '' s)) (x : M) :
    (Basis.mkImage hli hsp).repr x = hli.repr ⟨x, by rw [←Set.image_eq_range, top_le_iff.→ hsp]; exact Submodule.mem_top⟩ := by
  simp [Basis.mkImage]


section matroid_representation_basic

variable {α W 𝔽 : Type} {e : α} {I E X Y : Set α} {M : Matroid α} [DivisionRing 𝔽] [AddCommGroup W] [Module 𝔽 W]

namespace Matroid

/-- `M.Rep 𝔽 W` is a function from `α` to a module `W` that represents `M`. -/
@[ext] structure Rep (M : Matroid α) (𝔽 W : Type) [Semiring 𝔽] [AddCommMonoid W] [Module 𝔽 W] where
  -- A representation assigns a vector to each element of `α`
  (to_fun : α → W)
  -- A set is independent in `M` if and only if its image is linearly independent over `𝔽` in `W`
  (indep_iff' : ∀ I, M.Indep I ↔ LinearIndepOn 𝔽 to_fun I)

instance : FunLike (M.Rep 𝔽 W) α W where
  coe v := v.to_fun
  coe_injective' := by rintro ⟨f,h⟩ ⟨f', h'⟩; simp

lemma Rep.indep_iff (v : M.Rep 𝔽 W) : M.Indep I ↔ LinearIndepOn 𝔽 v I :=
  v.indep_iff' I

lemma Rep.onIndep (v : M.Rep 𝔽 W) (hI : M.Indep I) : LinearIndepOn 𝔽 v I :=
  v.indep_iff.→ hI

lemma Rep.eq_zero_iff_not_indep {v : M.Rep 𝔽 W} : v e = 0 ↔ ¬ M.Indep {e} := by
  simp [v.indep_iff]

lemma Rep.eq_zero_of_not_mem_ground (v : M.Rep 𝔽 W) (he : e ∉ M.E) : v e = 0 := by
  rw [v.eq_zero_iff_not_indep, indep_singleton]
  exact fun hl => he hl.mem_ground

lemma Rep.isBasis'_iff (v : M.Rep 𝔽 W) :
    M.IsBasis' I X ↔ I ⊆ X ∧ LinearIndepOn 𝔽 v I ∧ v '' X ⊆ Submodule.span 𝔽 (v '' I) := by
  have aux ⦃I J : Set α⦄ : M.Indep J ∧ J ⊆ X → I ⊆ J → M.Indep I ∧ I ⊆ X :=
    fun h hJI => ⟨h.left.subset hJI, hJI.trans h.right⟩
  simp only [IsBasis', Set.maximal_iff_forall_insert aux, Set.insert_subset_iff, not_and, Set.image_subset_iff]
  simp +contextual only [v.indep_iff, linearIndepOn_insert_iff, imp_false, and_imp, iff_def,
    true_and, not_true_eq_false, not_imp_not, forall_const, and_self]
  refine ⟨fun hI hIX h e heX => (em (e ∈ I)).elim (fun heI => ?_) fun heI => h e heI heX,
    fun hIX hI hX e heI heX => hX heX⟩
  exact Set.mem_of_mem_of_subset heI <| (Set.subset_preimage_image v I).trans <| Set.preimage_mono Submodule.subset_span

lemma Rep.mem_closure_iff (v : M.Rep 𝔽 W) (heE : e ∈ M.E := by aesop_mat) :
    e ∈ M.closure X ↔ v e ∈ Submodule.span 𝔽 (v '' X) := by
  obtain ⟨I, hIX⟩ := M.exists_isBasis' X
  have aux : Submodule.span 𝔽 (v '' I) = Submodule.span 𝔽 (v '' X) :=
    (Submodule.span_mono (Set.image_mono hIX.subset)).antisymm <| Submodule.span_le.← (v.isBasis'_iff.→ hIX).right.right
  rw [←hIX.closure_eq_closure, ←aux, ←not_iff_not, (v.onIndep hIX.indep).not_mem_span_iff,
    hIX.indep.not_mem_closure_iff, v.indep_iff]

lemma Rep.closure_eq (v : M.Rep 𝔽 W) (X : Set α) : M.closure X = (v ⁻¹' Submodule.span 𝔽 (v '' X)) ∩ M.E := by
  ext e
  by_cases he : e ∈ M.E
  · rw [v.mem_closure_iff, Set.mem_inter_iff, and_iff_left he, Set.mem_preimage, SetLike.mem_coe]
  simp [he, Set.not_mem_subset (M.closure_subset_ground X) he]

lemma Rep.span_le_of_closure_subset (v : M.Rep 𝔽 W) (hXY : M.closure X ⊆ M.closure Y) :
    Submodule.span 𝔽 (v '' X) ≤ Submodule.span 𝔽 (v '' Y) := by
  rw [Submodule.span_le]
  rintro _ ⟨e, he, rfl⟩
  obtain heE | heE := em' (e ∈ M.E)
  · simp [v.eq_zero_of_not_mem_ground heE]
  rw [v.closure_eq Y] at hXY
  exact (hXY (M.mem_closure_of_mem' he heE)).left

lemma Rep.span_closure_congr (v : M.Rep 𝔽 W) (hXY : M.closure X = M.closure Y) :
    Submodule.span 𝔽 (v '' X) = Submodule.span 𝔽 (v '' Y) :=
  (v.span_le_of_closure_subset hXY.subset).antisymm (v.span_le_of_closure_subset hXY.symm.subset)

end Matroid

end matroid_representation_basic


section matroid_representation_map

variable {α W W' 𝔽 : Type} {M : Matroid α} [DivisionRing 𝔽] [AddCommGroup W] [Module 𝔽 W] [AddCommGroup W'] [Module 𝔽 W']

namespace Matroid

def Rep.compEquiv (v : M.Rep 𝔽 W) (ψ : W ≃ₗ[𝔽] W') : M.Rep 𝔽 W' where
  to_fun := ψ.toLinearMap ∘ v
  indep_iff' I := by
    rw [LinearMap.linearIndepOn_iff_of_injOn, v.indep_iff]
    exact LinearMap.injOn_of_disjoint_ker (Submodule.span_mono (Set.image_subset_range v I)) (by simp)

@[simp] lemma Rep.compEquiv_apply (v : M.Rep 𝔽 W) (ψ : W ≃ₗ[𝔽] W') (e : α) :
    (v.compEquiv ψ) e = ψ (v e) :=
  rfl

end Matroid

end matroid_representation_map


variable {α W 𝔽 : Type} {B : Set α} {M : Matroid α} [DivisionRing 𝔽] [AddCommGroup W] [Module 𝔽 W]

namespace Matroid

lemma Rep.span_spanning_eq (v : M.Rep 𝔽 W) {S : Set α} (hS : M.Spanning S) :
    Submodule.span 𝔽 (v '' S) = Submodule.span 𝔽 (Set.range v) := by
  rw [←Set.image_univ]
  apply span_closure_congr
  simp [hS.closure_eq]

/-- A representation is `FullRank` if its vectors span the space -/
def Rep.FullRank (v : M.Rep 𝔽 W) : Prop := ⊤ ≤ Submodule.span 𝔽 (Set.range v)

/-- Restrict a representation to the submodule spanned by its image -/
@[simps] def Rep.restrictSpan (v : M.Rep 𝔽 W) : M.Rep 𝔽 (Submodule.span 𝔽 (Set.range v)) where
  to_fun := Set.codRestrict v _ (fun x => Submodule.subset_span (Set.mem_range_self _))
  indep_iff' I := (by
    rw [v.indep_iff]
    refine ⟨fun _ => LinearIndependent.of_comp (Submodule.subtype _) (by rwa [Submodule.coe_subtype]),
      fun h => h.map' (Submodule.subtype _) (Submodule.ker_subtype _)⟩ )

lemma Rep.FullRank.span_range {v : M.Rep 𝔽 W} (hv : v.FullRank) : Submodule.span 𝔽 (Set.range v) = ⊤ := by
  rwa [eq_top_iff]

lemma Rep.FullRank.span_spanning {v : M.Rep 𝔽 W} (hv : v.FullRank) {S : Set α} (hS : M.Spanning S) :
    Submodule.span 𝔽 (v '' S) = ⊤ := by
  rw [←hv.span_range, v.span_spanning_eq hS]

lemma Rep.restrictSpan_eq_inclusion (v : M.Rep 𝔽 W) :
    (v.restrictSpan : α → _) = Set.inclusion Submodule.subset_span ∘ Set.rangeFactorization v := by
  ext
  rfl

@[simp] lemma Rep.restrict_span_apply (v : M.Rep 𝔽 W) (e : α) :
    v.restrictSpan e = Set.inclusion Submodule.subset_span (Set.rangeFactorization v e) :=
  rfl

lemma Rep.restrictSpan_fullRank (v : M.Rep 𝔽 W) : v.restrictSpan.FullRank := by
  change _ ≤ Submodule.span 𝔽 _
  rw [restrictSpan_eq_inclusion]
  change _ ≤ Submodule.span 𝔽 (Set.range (Set.inclusion Submodule.subset_span ∘ _))
  rw [Set.range_comp, Set.surjective_onto_range.range_eq, Set.image_univ, Set.range_inclusion]
  change _ ≤ Submodule.span 𝔽 ((Submodule.subtype (Submodule.span 𝔽 (Set.range ↑v))) ⁻¹' _)
  simp

/-- A base of `M` gives a linear basis in a full-rank representation -/
noncomputable def Rep.FullRank.basis_of_isBase {v : M.Rep 𝔽 W} (hv : v.FullRank) (hB : M.IsBase B) :
    _root_.Basis B 𝔽 W :=
  Basis.mkImage (v.onIndep hB.indep) (hv.span_spanning hB.spanning).symm.le

/-- The natural representation with rows indexed by a base with `Finsupp` -/
noncomputable def Rep.standardRep' (v : M.Rep 𝔽 W) (hB : M.IsBase B) :
    M.Rep 𝔽 (B →₀ 𝔽) :=
  v.restrictSpan.compEquiv (v.restrictSpan_fullRank.basis_of_isBase hB).repr


section is_standard

variable {γ : Type} {B : Set α} [FunLike γ B 𝔽] [AddCommGroup γ] [Module 𝔽 γ]

/-- A representation over `B → 𝔽` or `B →₀ 𝔽` `IsStandard` if it is the identity on `B`.
The definition is agnostic as to whether the representation is `Finsupp` or `Function`,
and is phrased without `Function.Pi` to avoid decidability assumptions.

In the `Finsupp` case, this implies that `B` is a base - see `Matroid.Rep.IsStandard.isBase`.

In the `Function` case, we really need a `FiniteRank` assumption for this to be sensible,
since, if `I` is an infinite identity matrix and `1` means the all-ones vector, then `[I | 1]`
represents a free matroid in which `I` doesn't correspond to a base. -/
@[mk_iff]
structure Rep.IsStandard (v : M.Rep 𝔽 γ) : Prop where
  apply_eq : ∀ x : B, v x x = 1
  apply_ne : ∀ x y : B, x ≠ y → v x y = 0

lemma Rep.standardRep'_isStandard (v : M.Rep 𝔽 W) (hB : M.IsBase B) :
    (v.standardRep' hB).IsStandard := by
  simp_rw [standardRep', FullRank.basis_of_isBase, isStandard_iff, compEquiv_apply,
    restrict_span_apply, Set.rangeFactorization, Set.inclusion_mk, Basis.mkImage_repr]
  refine ⟨fun e => ?_, fun e f hne => ?_⟩
  · rw [LinearIndependent.repr_eq_single, Finsupp.single_eq_same]
    rfl
  rw [LinearIndependent.repr_eq_single, Finsupp.single_eq_of_ne hne]
  rfl

end is_standard


/-- A `Representable` matroid is one that has a representation over `𝔽`.
To avoid quantifying over types, we require that the representation is over the module `α → 𝔽`.
`Rep.Representable`, which is defined later, makes this definition useful.  -/
def Representable (M : Matroid α) (𝔽 : Type) [Semiring 𝔽] : Prop :=
  Nonempty (M.Rep 𝔽 (α → 𝔽))

lemma Representable.exists_isStandard_rep (hM : M.Representable 𝔽) (hB : M.IsBase B) :
    ∃ v : M.Rep 𝔽 (B →₀ 𝔽), v.IsStandard :=
  ⟨hM.some.standardRep' hB, Rep.standardRep'_isStandard (Nonempty.some hM) hB⟩
```
